US07173135B2
3-cyano-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt
A mixture of 7-(3-chloropropoxy)-3-cyano-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline (0.14 g), 1-(2-fluoroethyl)piperazine trifluoroacetic acid salt (0.158 g), diisopropylethylamine (0.189 g), sodium iodide (0.02 g) and 2-methoxyethanol (20 ml) was stirred and heated to 100° C. for 30 hours. The cooled mixture was evaporated and the resultant residue was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulphate and evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was dissolved in the minimum quantity of methylene chloride. The solution was diluted with diethyl ether and a solution of hydrogen chloride in diethyl ether (1M) was added. The resultant solid was isolated, washed with diethyl ether and dried. There was thus obtained the title compound (0.045 g); NMR Spectrum: (DMSOd6 and CF3CO2D at 100° C.) 2.22–2.31 (m, 2H), 2.98–3.1 (m, 6H), 3.1.6–3.21 (m, 2H), 3.25–3.31 (m, 4H), 3.36 (s, 3H), 3.99 (s, 3H), 4.3–4.34 (m, 4H), 4.6 (t, 1H), 4.72 (t, 1H), 6.08 (s, 2H), 6.9 (d, 1H), 6.98 (d, 1H), 7.49 (s, 1H), 7.96 (s, 1H), 8.69 (s, 1H); Mass Spectrum: M+H+ 576.

reactant | 7-(3-chloropropoxy)-3-cyano-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline | 0.14 g | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC | C25H22ClN3O5
reactant | 1-(2-fluoroethyl)piperazine trifluoroacetic acid salt | 0.158 g | FC(C(=O)O)(F)F.FCCN1CCNCC1
reactant | diisopropylethylamine | 0.189 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 0.02 g | [I-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1M | C(C)OCC | C4H10O
solvent | 2-methoxyethanol | 20 ml | COCCO | C3H8O2
product | 3-cyano-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt | 0.045 g | Cl.Cl.C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC)OCCCN2CCN(CC2)CCF | InChI=1S/C31H34FN5O5.2ClH/c1-38-15-3-5-22-6-7-25(31-30(22)41-21-42-31)35-29-23(19-33)20-34-26-18-28(27(39-2)17-24(26)29)40-16-4-9-36-11-13-37(10-8-32)14-12-36;;/h6-7,17-18,20H,4,8-16,21H2,1-2H3,(H,34,35);2*1H
